### PR TITLE
feat: heterogeneous noConfusion

### LINKED ISSUE #11450: RFC: heterogeneous noConfusion
For issue #11449 one needs to get injectivity results out of heterogeneous equality of constructors, if their indices are provably equal. This is possible, by generalizing the `noConfusion` principles:

```
opaque double : Nat → Nat

inductive Parity : Nat -> Type
| even (n) : Parity (double n)
| odd  (n) : Parity (Nat.succ (double n))

set_option trace.Meta.Match.matchEqs true

def Parity.hnoConfusion_type (P : Prop) : (n₁ : Nat) → (p₁ : Parity n₁) → (n₂ : Nat) → (p₂ : Parity n₂) → Prop
  | _, Parity.even i, _, Parity.even j => (i = j → P) → P
  | _, Parity.even i, _, Parity.odd j => P
  | _, Parity.odd j, _, Parity.even i => P
  | _, Parity.odd i, _, Parity.odd j => (i = j → P) → P

theorem Parity.hnoConfusion n₁ (p₁ : Parity n₁) n₂ (p₂ : Parity n₂) (hn : n₁ = n₂) (hp : p₁ ≍ p₂) :
    Parity.hnoConfusion_type P n₁ p₁ n₂ p₂ := by
  cases hn; cases hp; cases p₁
  · intro h; apply h; rfl
  · intro h; apply h; rfl

example
  (motive : (x : Nat) → Parity x → Sort u_1)
  (h_2 : (j : Nat) → motive (double j) (Parity.even j))
  (j n : Nat)
  (heq_1 : double n = double j)
  (heq_2 : Parity.even n ≍ Parity.even j):
  h_2 n ≍ h_2 j := by
  
  apply Parity.hnoConfusion _ _ _ _ heq_1 heq_2
  intro rfl
  rfl
```

I plan to provide that construction in general.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.

### PR DESCRIPTION
**Pull request by nomeata**
This PR generalizes the `noConfusion` constructions to heterogeneous equalities (assuming propositional equalities between the indices). This lays ground work for better support for applying injection to heterogeneous equalities in grind.

The `Meta.mkNoConfusion` app builder shields most of the code from these changes.

Since the per-constructor noConfusion principles are now more expressive, `Meta.mkNoConfusion` no longer uses the general one.

In `Init.Prelude` some proofs are more pedestrian because `injection` now needs a bit more machinery.

This is a breaking change for whoever uses the `noConfusion` principle manually and explicitly for a type with indices.

Fixes #11450.

### CODE REVIEW

**Comment by nomeata** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/19a08bb2d60298f4745e3e667edcf5db3fcca5d2?reference=5bd331e85d9d110a29fb3367dbb21854010ffcbd) for 19a08bb2d60298f4745e3e667edcf5db3fcca5d2 against 5bd331e85d9d110a29fb3367dbb21854010ffcbd are in! @nomeata
<details open>
<summary>Minor changes (1)</summary>

- ✅ `size/all/.olean//bytes`: **-713kiB** (**-0.2%**)
</details>

File: src/Lean/Meta/Constructions/NoConfusion.lean
Comment (Rob23oba) [inline src/Lean/Meta/Constructions/NoConfusion.lean:39]: Not necessarily related to this change, but this function is always used with `beta` directly after it, so why produce a lambda at all?

Comment (nomeata) [reply src/Lean/Meta/Constructions/NoConfusion.lean:39]: So just passing in concrete `xs, fs1, fs2` and skipping the `forallBoundedTelescope` isn't a good idea, probably because of this commit:
```
  -- We bring the constructor's parameters into scope abstractly, this way
  -- we can check if we need to use HEq. (The concrete fields could allow Eq)
```
Of course I could move the `.beta` into `mkNoConfusionCtorArg`, but it’s a private function, so not worth the bother. 

Maybe this was only strictly needed before the present change? Anyways, feels safer this way.

Comment (Rob23oba) [reply src/Lean/Meta/Constructions/NoConfusion.lean:39]: I mean we could at least do `t.replaceFVars` instead of `mkLambdaFVars` + `beta`. Anyways, I feel like this is in general a bit hacky, couldn't you just check `hasLooseBVars` on the forall domain? So to be precise we could start with `let ctorType := instantiateForall ctorInfo.type params` and then peel away the forall layers while deciding on `Eq` vs `HEq` using `hasLooseBVars`.

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- 💥 Mathlib branch [lean-pr-testing-11474](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11474) build failed against this PR. (2025-12-02 14:14:06) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19860974138)
- ✅ Mathlib branch [lean-pr-testing-11474](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11474) has successfully built against this PR. (2025-12-02 15:10:44) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19862036444)
- ✅ Mathlib branch [lean-pr-testing-11474](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11474) has successfully built against this PR. (2025-12-02 16:14:58) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19863564419)

File: src/Lean/Meta/Constructions/NoConfusion.lean
Comment (nomeata) [reply src/Lean/Meta/Constructions/NoConfusion.lean:39]: Feel free to try and see if the resulting code is more elegant.

Comment (nomeata) [reply src/Lean/Meta/Constructions/NoConfusion.lean:39]: And while you are at it, maybe you can come up with prettier tactic-free code for `mkEqNDRecTelescope`
